US07368578B2
To a mixture of 4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-2-(2-furyl)-5-methyl-1,3-oxazole (7.63 g), ethyl 3-hydroxy-1-methyl-1H-pyrazole-4-carboxylate (3.0 g) and N,N-dimethylformamide (50 mL) was added sodium hydride (60% in oil, 0.78 g) at room temperature, and the mixture was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give ethyl 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-methyl-1H-pyrazole-4-carboxylate as pale-brown crystals (8.03 g, yield 98%). Recrystallization from acetone-hexane gave colorless prism crystals. melting point: 117-118° C.

reactant | 4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-2-(2-furyl)-5-methyl-1,3-oxazole | 7.63 g | ClCC1=CC(=C(OCC=2N=C(OC2C)C=2OC=CC2)C=C1)OC | C17H16ClNO4
reactant | ethyl 3-hydroxy-1-methyl-1H-pyrazole-4-carboxylate | 3.0 g | OC1=NN(C=C1C(=O)OCC)C | C7H10N2O3
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.78 g | [H-].[Na+]
solvent | Water | O | H2O
product | ethyl 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-methyl-1H-pyrazole-4-carboxylate | 8.03 g, yield 98% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2C(=O)OCC)C)C=C1)OC)C | C24H25N3O7
